US07199135B2
N-{5-[1-(3-{[hydroxy(diphenyl)acetyl]amino}propyl)-4-piperidinyl]-3-pyridinyl}-2-methyl propanamide:
Example 176 was prepared from hydroxy(diphenyl)acetic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-3-pyridinyl}-2-methylpropanamide according procedures described in Scheme 12; ESMS m/e: 515.4 (M+H)+.

reactant | hydroxy(diphenyl)acetic acid | OC(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C14H12O3
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-3-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=NC1)NC(C(C)C)=O | C17H28N4O
product | N-{5-[1-(3-{[hydroxy(diphenyl)acetyl]amino}propyl)-4-piperidinyl]-3-pyridinyl}-2-methyl propanamide | OC(C(=O)NCCCN1CCC(CC1)C=1C=C(C=NC1)NC(C(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H38N4O3
